US05686455
O-Benzyl-4-[4-(4-Fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]-benzohydroxamic acid
To a stirred suspension of O-benzyl-hydroxylamine hydrochloride (1.2 g, 7.8 mmol) in toluene (20 mL) at 0° C. was added trimethylaluminum (2.0M in toluene, 3.9 mL, 7.8 mmol). The reaction mixture was warmed to rt and stirring was continued at this temperature for 1 h. Ethyl 4-[4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]benzoate (1.0 g, 2.6 mmol) [See Ex. 14 above] was added and the reaction mixture was heated at reflux for 3 h. After cooling, the reaction was poured into 10% MeOH/CHCl3 containing silica gel. The solids were removed by filtration and washed with 10 MeOH/CHCl3. The combined washings were evaporated and the residue was purified by flash chromatography eluting with a solvent gradient of 1-10% MeOH/CHCl3. Trituration with ether afforded the title compound as a white solid (0.25 g, 21%): 1H NMR (CDCl3 /MeOH-d4): δ8.16 (d, 2H); 7.77 (d, 2H); 7.53 (d, 2H); 7.23 (m, 5H); 7.10 (m, 4H); 6.88 (t, 2H).

reactant | O-benzyl-hydroxylamine hydrochloride | 7.8 mmol, 1.2 g | Cl.C(C1=CC=CC=C1)ON
reactant | trimethylaluminum | 7.8 mmol, 2.0M, 3.9 mL | C[Al](C)C
reactant | Ethyl 4-[4-(4-fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]benzoate | 2.6 mmol, 1.0 g | FC1=CC=C(C=C1)C=1N=C(NC1C1=CC=NC=C1)C1=CC=C(C(=O)OCC)C=C1 | C23H18FN3O2
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | O-Benzyl-4-[4-(4-Fluorophenyl)-5-(4-pyridyl)-1H-imidazol-2-yl]-benzohydroxamic acid | 0.25 g, 21% | C(C1=CC=CC=C1)ONC(C1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1)=O | C28H21FN4O2
